US03962227
To a solution of 1.55 g. of p-nitrobenzyl 7-amino-3-hydroxy-3-cephem-4-carboxylate hydrochloride in 30 ml. of acetone containing 364 mg. (0.5 ml., 3.6 mmole) of triethylamine was added 962 mg. of urea. With stirring at room temperature, a solution of 730 mg. (4.4 mmole) of 2-thiophene acetyl chloride in 20 ml. of acetone was added dropwise to the mixture. After 2.5 hours the reaction mixture was filtered and evaporated. The residue was dissolved in ethyl acetate and the solution was washed successively with water, a 5% solution of sodium bicarbonate, 5% hydrochloric acid, and a saturated solution of sodium chloride. The washed solution was dried and then was concentrated by evaporation in vacuo to yield 1.2 g. of the reaction product as a crystalline residue. The product was recrystallized from ethyl acetate to yield pure p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-hydroxy-3-cephem-4-carboxylate having the following spectral properties.

reactant | p-nitrobenzyl 7-amino-3-hydroxy-3-cephem-4-carboxylate hydrochloride | Cl.NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O
reactant | triethylamine | 3.6 mmole, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | urea | NC(=O)N | CH4N2O
reactant | 2-thiophene acetyl chloride | 4.4 mmole | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 364 mg | CC(=O)C | C3H6O
product | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-hydroxy-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H17N3O7S2
